US06949536B2
4,4,4-Trifluoro-1-[4-(2-furyl)-2-methylphenyl]butane-1,3-dione (Step 3)
To a stirred solution of ethyl trifluoroacetate (9.90 g, 6.31 mmol) in t-butylmethylether (3 ml) was added sodium methoxide (28 wt. % solution in methanol, 1.5 ml, 6.23 mmol) over 2 min. A solution of 1-[4-(2-furyl)-2-methylphenyl]ethanone (1.15 g. 5.74 mmol) in t-butylmethylether (4 ml) was added dropwise over 5 min. and the mixture was stirred for 20 hours. 2N HCl (10 ml) was added, and the whole was extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo to give 1.78 g of brown oil. The compound was used for next reaction without purification.

reactant | ethyl trifluoroacetate | 6.31 mmol, 9.90 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide | 6.23 mmol, 1.5 ml | C[O-].[Na+]
reactant | 1-[4-(2-furyl)-2-methylphenyl]ethanone | 5.74 mmol, 1.15 g | O1C(=CC=C1)C1=CC(=C(C=C1)C(C)=O)C | C13H12O2
reactant | HCl | 2N, 10 ml | Cl | ClH
solvent | t-butylmethylether | 3 ml | C(C)(C)(C)OC | C5H12O
solvent | t-butylmethylether | 4 ml | C(C)(C)(C)OC | C5H12O
product | 4,4,4-Trifluoro-1-[4-(2-furyl)-2-methylphenyl]butane-1,3-dione | 1.78 g | FC(C(CC(=O)C1=C(C=C(C=C1)C=1OC=CC1)C)=O)(F)F | C15H11F3O3
